US08030321B2
Step A: 3-Amino-5-fluoro-benzofuran-2-carboxylic acid ethyl ester.
To a solution of 2,5-difluoro-benzonitrile (10 g, 72.0 mmol) in DMF (200 mL) was added hydroxy-acetic acid ethyl ester (8.6 mL, 86.4 mmol) followed by K2CO3 (43.7 g, 316 mmol). After 24 h at 100° C., the reaction mixture was diluted with 1 N NaOH (200 mL) and extracted with CH2Cl2 (3×150 mL). The combined organic layers were washed with 1 N NaOH (100 mL), dried, and concentrated to afford the desired product (3.35 g, 21%). 1H NMR (CDCl3): 7.39 (dd, J=9.0, 4.0 Hz, 1H), 7.21-7.15 (m, 2H), 4.90 (s, 2H), 4.45 (q, J=7.1 Hz, 2H), 1.47 (t, J=7.1 Hz, 3H).

reactant | 2,5-difluoro-benzonitrile | 72.0 mmol, 10 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | hydroxy-acetic acid ethyl ester | 86.4 mmol, 8.6 mL | C(C)OC(CO)=O | C4H8O3
reactant | K2CO3 | 316 mmol, 43.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 1 N, 200 mL | [OH-].[Na+]
product | 3-Amino-5-fluoro-benzofuran-2-carboxylic acid ethyl ester | 3.35 g, 21% | C(C)OC(=O)C=1OC2=C(C1N)C=C(C=C2)F | C11H10FNO3
